US09290451B2
c) α,α-Dimethyl-2-thiazolemethanamine
A mixture of tert-butyl 1-amino-2-methyl-1-thioxopropan-2-ylcarbamate (5.31 g, 24 mmol), 2-bromo-1,1-dimethoxyethane (CAN:7252-83-7, 5.11 g, 30 mmol) and TsOH (0.49 g, 3 mmol) in acetic acid (50 mL) was stirred at 120° C. for 4 h. After evaporation of solvents, the residue was diluted with ethyl acetate (50 mL) and water (50 mL). The water phase was washed with ethyl acetate (3×50 mL). Then water phase was lyophilized to give the title compound as brown solid (2.1 g, 65%); MS (LC/MS): 143.1 [M+H]+.

reactant | tert-butyl 1-amino-2-methyl-1-thioxopropan-2-ylcarbamate | 24 mmol, 5.31 g | NC(C(C)(C)NC(OC(C)(C)C)=O)=S | C9H18N2O2S
reactant | 2-bromo-1,1-dimethoxyethane | 30 mmol, 5.11 g | BrCC(OC)OC | C4H9BrO2
reactant | TsOH | 3 mmol, 0.49 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | α,α-Dimethyl-2-thiazolemethanamine | 2.1 g, 65% | CC(N)(C=1SC=CN1)C | C6H10N2S
